US07534894B2
Triethylamine (9.76 mL, 70 mmol) was added under nitrogen to a solution of 4′-hydroxy-biphenyl-4-carboxylic acid (15.0 g, 70 mmol) in 200 mL of anhydrous DMF at room temperature. After stirring for 5 minutes potassium carbonate (58.0 g, 420 mmol) was added and the reaction stirred an additional 5 minutes. Iodomethane (26.0 mL, 420 mmol) was then added (exothermic reaction) and the reaction stirred overnight. The reaction was diluted with methylene chloride, extracted multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 4′-methoxy-biphenyl-4-carboxylic acid methyl ester (16.26 g, 96%) as a tan solid, mp 170-173° C. Elemental Analysis for C15H14O3: Calc'd: C, 74.36; H, 5.82; N, 0.00; Found: C, 73.97; H, 5.66; N, 0.03.

reactant | Triethylamine | 70 mmol, 9.76 mL | C(C)N(CC)CC | C6H15N
reactant | 4′-hydroxy-biphenyl-4-carboxylic acid | 70 mmol, 15.0 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | potassium carbonate | 420 mmol, 58.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 420 mmol, 26.0 mL | IC | CH3I
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4′-methoxy-biphenyl-4-carboxylic acid methyl ester | 16.26 g, 96% | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C15H14O3
